Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
___ superior mesenteric angiogram

 
History of Present Illness:
Mr. ___ is ___ ___ man with PMH
notable for previous LGIB in setting of diverticulosis, coronary
artery disease (s/p stent) on aspirin/Plavix who presents with
bright red blood per rectum.  

 Per history obtained in the ED, ___ man with PMH 
notable
for coronary artery disease on aspirin/Plavix who presents with
bright red blood per rectum. This morning he went to the 
bathroom
and noticed streaks of blood on the toilet paper as well as on
his stool. He came to the emergency department for this.  

 History of LGIB in setting of diverticulosis. This is his third
episode. His last episode, he had significant bright red blood
per rectum and requiring 6 units of PRBCs on admission at
___.  

 He denies any abdominal pain, dizziness, lightheadedness, chest
pain, shortness of breath, or ankle swelling. No other symptoms
and no dietary changes recently. 
 
 Of note, patient had additional bloody BM in ED.  

 In the ED, initial vitals were:  
 11:28, T 97.4, HR 100, BP 147/99, RR 17, SpO2 98% RA  

 Exam was notable for:  
 - Abdominal: Bowel sounds normoactive, no tenderness to
palpation anywhere, no hepatosplenomegaly  
 - Rectal exam with blood mixed with stool concerning for 
ongoing
or brisk bleeding. CTA abd/pelvis without intervenable lesion.  

 Labs were notable for:  
 ___ 12:35PM BLOOD WBC: 5.9 RBC: 5.51 Hgb: 14.___ 


 ___ 04:40PM BLOOD WBC: 9.6 RBC: 5.28 Hgb: 14.___ 


 Studies were notable for:  
 - CTA:  
 1. No evidence of active gastrointestinal bleed.  
 2. Mild rectal mucosal hyperenhancement suggestive of 
proctitis.

 3. Extensive colonic diverticulosis without evidence of acute
diverticulitis.  

 On arrival to the floor, he is feeling well. He strongly 
insists
he must take his Plavix and aspirin per his cardiologist ___. Last episode of LGIB was at ___ <6 months after his
stent was placed (___) for which they kept his Plavix and
aspirin on, nadir of hgb was ~9. 

 Admit to medicine for serial HCT, GI evaluation in setting of
ongoing bleeding, anticoagulation, and recent life threatening
LGIB. 
 
 
Past Medical History:
appendectomy  
previous LGIB in setting of diverticulosis  
coronary artery disease (s/p stent) on aspirin/Plavix  
 
Social History:
___
Family History:
Mother -- CVA at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===================
 VITALS:  97.8, 119/81, 89, 18, 97% Ra 

 GEN:    well appearing, sitting in bed
 HEENT:  MMM, no conjunctival pallor
 CV:     RRR
 PULM:   CTA 
 GI:     S/ND/NT
 EXT:    WWP

DISCHARGE PHYSICAL EXAM:
===================
___ 0737 Temp: 97.9 PO BP: 116/77 L Lying HR: 88 RR: 18 O2
sat: 97% O2 delivery: Ra 
GEN:    well appearing, sitting in bed, slightly more pale than
yesterday
HEENT:  MMM, no conjunctival pallor
CV:     RRR, no murmurs
PULM:   CTAB, no increased work of breathing
GI:     S/ND/NT
EXT:    WWP, no edema
 
Pertinent Results:
ADMISSION LABS:
============
___ 12:35PM BLOOD WBC-5.9 RBC-5.51 Hgb-14.9 Hct-45.0 MCV-82 
MCH-27.0 MCHC-33.1 RDW-12.7 RDWSD-37.8 Plt ___
___ 12:35PM BLOOD Neuts-55.5 ___ Monos-9.7 Eos-7.8* 
Baso-1.0 Im ___ AbsNeut-3.25 AbsLymp-1.51 AbsMono-0.57 
AbsEos-0.46 AbsBaso-0.06
___ 12:35PM BLOOD ___ PTT-30.2 ___
___ 12:35PM BLOOD Glucose-121* UreaN-17 Creat-0.8 Na-138 
K-4.2 Cl-102 HCO3-25 AnGap-11
___ 12:41PM BLOOD Lactate-1.9

PERTINENT LABS:
===========
___ 04:40AM BLOOD WBC-7.7 RBC-5.22 Hgb-14.1 Hct-43.0 MCV-82 
MCH-27.0 MCHC-32.8 RDW-13.0 RDWSD-38.6 Plt ___
___ 01:35AM BLOOD WBC-8.5 RBC-3.59* Hgb-9.7* Hct-29.8* 
MCV-83 MCH-27.0 MCHC-32.6 RDW-12.7 RDWSD-38.3 Plt ___

DISCHARGE LABS:
============
___ 07:14AM BLOOD WBC-5.6 RBC-3.40* Hgb-9.4* Hct-28.0* 
MCV-82 MCH-27.6 MCHC-33.6 RDW-13.4 RDWSD-39.9 Plt ___
___ 07:14AM BLOOD Glucose-126* UreaN-13 Creat-0.9 Na-140 
K-4.2 Cl-103 HCO3-26 AnGap-11
___ 07:14AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.9

IMAGING:
=======
___ CT abd/pelvis:
1. No evidence of active gastrointestinal bleed.
2. Mild rectal mucosal hyperenhancement suggestive of proctitis.
3. Extensive colonic diverticulosis without evidence of acute 
diverticulitis.

___ CT abd/pelvis:
A 3 mm hyperdense focus on arterial phase within the proximal 
transverse
colon, (series 4, image 54) that pools on portal venous phase 
consistent with
an arterial bleed, (series 5, image 64).
 
Extensive diverticulosis without evidence acute diverticulitis.

___ ___ GI bleed embo:
1. Superior mesenteric arteriogram demonstrates active 
extravasation along the
hepatic flexure.
2.  Selective right colic arteriogram demonstrates no evidence 
of active
extravasation, pseudoaneurysm, or arteriovenous fistula.  Area 
of hyperemia
noted along the ascending colon.
3.  Selective marginal artery arteriogram demonstrates no 
evidence of active
extravasation, pseudoaneurysm, or arteriovenous fistula.
4.  Selective middle colic arteriogram demonstrates no evidence 
of active
extravasation, pseudoaneurysm, or arteriovenous fistula.
5.  Selective marginal artery arteriogram in ___ projection 
demonstrates area
of active extravasation within the hepatic flexure.
6.  Super selective middle colic Vasa recta arteriogram 
demonstrates active
extravasation.
7.  Post embolization marginal artery arteriogram demonstrates 
no evidence of
active extravasation, pseudoaneurysm, or arteriovenous fistula.
8.  Post embolization middle colic artery arteriogram 
demonstrates no evidence
of active extravasation, pseudoaneurysm, or arteriovenous 
fistula.
9. Post embolization superior mesenteric artery arteriogram 
demonstrates no
evidence of active extravasation, pseudoaneurysm, or 
arteriovenous fistula.
 
 For reporting clarification, diagnostic arteriograms were 
medically necessary
to evaluate for anatomy, abnormal vasculature, and the presence 
or absence of
active bleeding, pseudoaneurysms, and or arteriovenous fistula.
 
IMPRESSION: 
 
Successful right common femoral artery approach superior 
mesenteric
arteriogram with coil embolization of a Vasa recta branch 
arising from the
middle colic artery supplying an area of active extravasation in 
the hepatic
flexure.
 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE 
================================
Mr. ___ is a ___ yo M with history of coronary artery disease 
(s/p stent to LAD ___ and HTN who presents with a few 
episodes of bright red blood per rectum and bloody bowel 
movements concerning for a lower GI bleed. He had a CTA 
abdomen/pelvis that showed no evidence of acute GI bleed with 
some mild rectal mucosal hyperenhancement suggestive of 
proctitis. He was monitored with serial hemoglobins and did have 
a significant drop in hemoglobin overnight from 14 --> 9 with 
continued bright red blood per rectum. The interventional 
radiology team and colorectal surgery team evaluated the 
patient. He went for superior mesenteric angiogram with the 
interventional radiology team and had a successful coil 
embolization of vasa recta branch arising from middle colic 
artery supplying an area of active extravasation in the hepatic 
flexure. After the procedure, Mr. ___ did well and remained 
stable. He transitioned back to a regular diet and restarted his 
home medications, including his aspirin and plavix. 

TRANSITIONAL ISSUES: 
================================= 
[] patient had evidence of proctitis on CT abd/pelvis -- follow 
up regarding symptoms and if needs any further imaging 

MEDICATIONS: 
- New Meds: none
- Stopped Meds: none
- Changed Meds: none

# CODE: Full
# CONTACT: Name of health care proxy: ___ 
Relationship: Wife 
Phone number: ___ 

ACUTE ISSUES:
===================
# Lower GI bleed in the setting of significant diverticulosis 
and right colonic artery bleeding
Patient presented with multiple episodes of painless bright red 
blood per rectum. He denied any symptoms including chest pain, 
lightheadedness, dizziness, or shortness of breath. He had CT 
abd/pelvis that showed no evidence of acute GI bleed but did 
show extensive colonic diverticulosis. He monitored with serial 
hemoglobins and did have a significant drop in hemoglobin 
overnight from 14 --> 9 with continued bright red blood per 
rectum and had a repeat CTA that showed an active source of the 
bleeding. The interventional radiology team and colorectal 
surgery team evaluated the patient. He went for superior 
mesenteric angiogram with the interventional radiology team and 
had a successful coil embolization of vasa recta branch arising 
from middle colic artery supplying an area of active 
extravasation in the hepatic flexure. After the procedure, Mr. 
___ did well and remained stable. He transitioned back to a 
regular diet and restarted his home medications, including his 
aspirin and plavix. 

[] Proctitis seen on imaging
Patient denies any symptoms and is monogamous with his wife. 
There were no signs of infection and he was monitored. 

[] Coronary artery disease
Patient with history of CAD with a stent to LAD on ___. He 
was continued on his DAPT regimen while inpatient (ASA and 
plavix) and monitored for recurrence of bleed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
====================
Lower GI bleed secondary to right colonic artery bleed  

SECONDARY DIAGNOSIS:
=====================
Coronary artery disease
Diverticulosis 
Proctitis seen on CT imaging 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for bleeding with your bowel movements. 
 
What was done for me while I was in the hospital?  
- Your blood counts were monitored
- The gastroenterologist team came in to evaluate you
- The interventional radiologist team evaluated you and 
performed a procedure to help stop the bleeding in your colon
- The colorectal surgery team came to evaluate you to ensure 
there was no need for surgery
- You were transitioned back to your home medications and 
regular diet and did well

What should I do when I leave the hospital?  
Please take all your medications as prescribed. Please go to all 
of your follow up appointments.

Call your doctor if you have any concerning symptoms (see 
below).
 
Sincerely,  
Your ___ Care Team 
 
Followup Instructions:
___